US05196046
a) N-(1',1'-Dimethylpropynyl)-furan-2-carboxamide
2-Furoyl chloride (6.5 gm, 0.05 m) was dissolved in methylene chloride (200 ml), cooled to 0 to -5° C. and maintained under a nitrogen atmosphere. Triethylamine (10 ml) and then dimethylpropargylamine (4.2 gm, 0.051 m) were gradually added with stirring while maintaining the temperature at 0±5° C. for about one-half hour and then at room temperature for about 1 hour. Water (100 ml) was added and the reaction slurry was transferred, using methylene chloride (100 ml) as a rinse, to a separatory funnel. The aqueous layer was sequentially separated and the methylene chloride layer was washed with water (50 ml), 5% hydrochloric acid (1×100 ml), saturated sodium bicarbonate (1×50 ml), water (1×50 ml) and then brine. The solvent was evaporated after drying over magnesium sulfate and 8.0 gms of product were obtained. The starting materials for all compounds except 7, 8 and 11 can be prepared in an analogous manner.

reactant | 2-Furoyl chloride | 6.5 gm | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | Triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylpropargylamine | 4.2 gm | CN(CC#C)C | C5H9N
reactant | Water | 100 ml | O | H2O
reactant | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(1',1'-Dimethylpropynyl)-furan-2-carboxamide | 8.0 gms | CC(C#C)(C)NC(=O)C=1OC=CC1 | C10H11NO2
